Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain, emesis
 
Major Surgical or Invasive Procedure:
EGD ___

 
History of Present Illness:
___ y.o. woman with active ETOH use disorder c/b cirrhosis with 
ascites, HE, SBP, obesity s/p RYGB ___ years ago) c/b 
anastamotic stricture w/ chronic daily emesis and recent SBO s/p 
surgical repair ___ at ___) and multiple 
hospitalizations at ___ for ascites, fatigue, hyponatremia, 
w/ recent admission for esophageal stricture s/p dilation w/ NJ 
tube placement(discharged ___ re-presenting for abdominal 
pain and dry heaving.

Patient with several years of daily emesis since RYGB ___ years 
ago which was complicated by esophageal stricture. Also subacute 
abdominal pain generally improved after receiving paracentesis. 
On recent admission, the patient had EGD with balloon dilation 
of NJ tube and was tolerating full liquids on day of discharge. 
She continued to have daily emesis, and it was determined that 
she would follow up as an outpatient for repeat EGD with 
stenting. Regarding her abdominal pain, the patient felt 
improvement after paracentesis (4.5 L removed, no e/o SBP). She 
was continued on SBP PPX. Of note the patient also had HRS with 
normalization of Cr on day of discharge. She was discharged on 
midodrine. 

On this admission, the patient comes in with recurrent abdominal 
pain and dry heaving and emesis 40x in last 24 hours. Most 
recently w/ specs of blood. Desribed as diffuse abdominal pain, 
radiating to the back like "knives in her stomach", similar to 
pain in the past when she was young and had a ruptures cyst. 
Exacerbated by episodes of emesis and dry heaving. Because of 
the stricture, patient says she is unable to tolerate liquids, 
medications, or even her saliva. Was discharged w/ oxycodone but 
It didn't help (though may have not been able to keep it down). 
Feels like this abdominal pain is different than abdominal pain 
she was experiencing on recent admission. No diarrhea, no melena 
no BRBPR. NO fevers/chills/nightsweats.

Of note, patient tells me she had a "weird" sensation that came 
on at the end of urination. Not very similar to UTIs she had in 
the past but maybe beginning of one. no hematuria. 

Exam notable for diffuse abdominal TTP

In the ED, initial vitals were 97.9 103 125/66 20 99% RA 
Labs were notable for :

8.0 > 7.7 < 95 

137  103  19   
============< 103   AGap=16    (MOD HEMOLYZED)
5.3  23  0.9 

latate 2.1

ALT/AST/AlkP/tbili: ___
Lipases 121

U/A w/ large leuks, neg nitrites, 53 WBC, 9 epis

Imaging was notable for 

CT A/P w/ con:

1. No free intraperitoneal air.
2. Oral contrast does not pass through the gastrojejunal 
anastomosis, indicating stricture recurrence.
3. Cirrhosis sequela of portal hypertension including 
splenomegaly and
moderate ascites.
4. Small left and trace right pleural effusions and bibasilar 
atelectasis.

CXR ___

Patchy opacities at both bases medially in the setting of low 
lung volumes, with patchy opacity projecting over the lower 
lobes posteriorly on lateral view. Early resolving pulmonic 
infiltrate would be difficult to exclude.  Small bilateral 
effusions. 

Bariatric surgery was consulted:

No evidence of perforation on CT. Agree with admission to 
medicine.
Recommend consult to advanced GI endoscopy service as GJ 
stricture persistent on CT.

Patient underwent diagnostic tap:

WBC  148 ; poly 15, gluc 12

Patient was given:

IV dilauded (1mg x1, 0.5mg x3), Zofran 4mg (x2), CTX 1g

Decision was made to admit to ET for abdominal pain work up, 
management and consideration of repeat EGD.

Transfer vitals were: 98.0 97 94/56 18 94% RA 

Upon arrival to the floor, patient reports abdominal pain 
improved from ___ to ___ w/ IV dilauded. No emesis since 
arriving to floor. Very anxious, crying saying she doesn't want 
to die. 
  
ROS: 
(+) HA (+photophobia, nausea), +mild non-productive cough; +SOB 
from abdominal pressure
(-) Denies fever, chills, night sweats, chest pain, 
hematochezia, dysuria, hematuria.
 
Past Medical History:
- s/p gastric bypass c/b stricture of the gastrojejunal 
anastomosis and internal hernia causing SBO
- alcohol cirrhosis, diagnosed last year; complicated by 
ascites, HE, SBP
- numerous hospitalizations for abdominal pain, requiring 
paracentesis. 
- esophageal stricturing, last dilation ___. 
- depression
- anxiety
- obese BMI 30
- GERD
- hx of Cdif
- IBS
- thrombocytopenia 
- left ankle fusion
- SBO  
- gastric surgery  
- Chronic fatigue syndrome 
- Depressive disorder 
- Hypertriglyceridemia  
- Hyponatremia 
 
Social History:
___
Family History:
- father w/ diabetes
- maternal grandfather has unknown cancer 
- She has no family history of liver disease, hemochromatosis, 
autoimmune diseases, or non-smoker emphysema

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
============================ 
VS:  97.6 PO 107 / 70 97   96 
Weight: (admit wt: 96.07 kg   )
I/O: P
GENERAL: Extremely anxious appearing, teary eyed
HEENT: normocephalic, atraumatic, no conjunctival pallor, + mild 
scleral icterus, PERRLA,  NJ tube in place
NECK: Supple, JVP flat.
HEART: RRR, normal S1/S2, systolic murmur
LUNGS: Decreased breath sounds at bases 
ABDOMEN: Normal bowel sounds, soft, mild tenderness diffusely, 
distended, not tense, no guarding
EXTREMITIES: Warm, well-perfused, 1+ pitting edema at bilateral 
ankles extending up to the shins.
SKIN: Without rash.  
NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with moving all four extremities. No asterixis.

DISCHARGE PHYSICAL EXAM:
============================
VS: 98.3, 112/59, 76, 18, 94 on RA
General: Uncomfortable, NAD
HEENT: Mild scleral icterus, NJ in place
HEART: RRR, normal S1/S2, systolic murmur
LUNGS: non-labored, CTAB
ABDOMEN: Soft, distended, mild diffuse tenderness, no rebound or 
guarding
GU: No suprapubic or CVA tenderness
EXT: Warm, well perfused. 1+ pitting edema at bilateral ankles 
extending up to shins
Neuro: Normal mental status, No asterixis
 
Pertinent Results:
LABS ON ADMISSION:
============================
___ 12:30AM BLOOD WBC-8.0 RBC-2.21* Hgb-7.7* Hct-23.4* 
MCV-106* MCH-34.8* MCHC-32.9 RDW-19.9* RDWSD-76.8* Plt Ct-95*
___ 12:30AM BLOOD ___ PTT-35.5 ___
___ 12:30AM BLOOD Glucose-103* UreaN-19 Creat-0.9 Na-137 
K-5.3* Cl-103 HCO3-23 AnGap-16
___ 12:30AM BLOOD ALT-21 AST-91* AlkPhos-75 TotBili-3.5*
___ 12:30AM BLOOD Albumin-3.3*
___ 01:00AM BLOOD Lactate-2.1* K-6.2*

MICRO:
==============
___ 9:40 am FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      PERITONEAL FLUID. 

                            **FINAL REPORT ___

   Fluid Culture in Bottles (Final ___:    NO GROWTH.

IMAGING/STUDIES:
==========================
CXR PA/Lat ___
Inspiratory volumes are low.  There is patchy opacity at both 
lung bases medially, with corresponding opacities projecting 
over the lower lobe posteriorly.  Compatible with atelectasis 
or, less likely,  pneumonic infiltrates.  There is minimal 
blunting of the left and posterior right costophrenic angle 
consistent with small effusions.   
Elsewhere, no focal infiltrate or consolidation.  No 
pneumothorax.  Orogastric type tube extends beneath the 
diaphragm beyond the edge of the film.   
The cardiac and mediastinal silhouettes are nominal for 
technique. 
An enteric tube terminates below the level of the diaphragm, the 
distal tip of which is not visualized. 

CT Abdomen/Pelvis ___
IMPRESSION: 
1. No free intraperitoneal air. 
2. Oral contrast remains in the dilated esophagus and does not 
pass through the gastrojejunal anastomosis, suggesting stricture 
recurrence. 
3. Cirrhosis sequela of portal hypertension including 
splenomegaly and moderate ascites. 
4. Small left and trace right pleural effusions and bibasilar 
atelectasis. 

Portable Abdominal XR ___
IMPRESSION:  
Nonobstructive bowel gas pattern.  NG tube tip likely within 
jejunum, distal to gastrojejunostomy. 

EGD ___:
Impression: A stricture was seen at the site of Gastro-Jejunal 
anastomosis. The scope could not be advanced. A 12-15mm CRE 
balloon was used to dilate the stricture up to 15mm.
The small bowel was not visualized given stricture at ___ 
anastamosis
Otherwise normal EGD to gastric pouch 
Recommendations: GI consult service to discuss with inpatient 
primary team.
Continue nutrition using ___ tube
Repeat EGD with Dr. ___ in 2 weeks 

LABS ON DISCHARGE:
=========================
___ 05:40AM BLOOD WBC-7.3 RBC-2.26* Hgb-8.0* Hct-24.1* 
MCV-107* MCH-35.4* MCHC-33.2 RDW-20.8* RDWSD-80.5* Plt ___
___ 05:40AM BLOOD ___ PTT-38.2* ___
___ 05:40AM BLOOD Glucose-118* UreaN-8 Creat-0.7 Na-137 
K-3.5 Cl-102 HCO3-24 AnGap-15
___ 05:40AM BLOOD ALT-14 AST-38 AlkPhos-81 TotBili-3.7*
___ 05:40AM BLOOD Albumin-2.7* Calcium-8.1* Phos-2.8 Mg-1.8

___ 09:40AM ASCITES TNC-136* RBC-82* Polys-2* Lymphs-41* 
___ Mesothe-2* Macroph-55*
___ 09:40AM ASCITES TotPro-1.5 Glucose-___ y.o. woman with active ETOH use disorder c/b cirrhosis with 
ascites, HE, SBP, obesity s/p RYGB ___ years ago) c/b 
anastamotic stricture w/ chronic daily emesis and recent SBO s/p 
surgical repair ___ at ___) and multiple 
hospitalizations at ___ for ascites, fatigue, hyponatremia, 
w/ recent admission for esophageal stricture s/p dilation w/ NJ 
tube placement(discharged ___ re-presenting for abdominal 
pain and dry heaving. She underwent repeat EGD on ___ with 
another attempt to dilate the stricture. Her tube feeds were 
resumed and titrated slowly up to goal. She was treated for a 
VRE UTI with fosfomycin. She received paracentesis with 5L of 
fluid removed, without evidence of SBP.

#Cirrhosis:
- Ciprofloxacin for SBP ppx
- Restarted spironolactone 100 and furosemide 40
- lactulose TID
- Received LVP on ___ without evidence of SPB
- Continued on midodrine given previous concern for HRS, can be 
weaned as outpatient

#GJ Stricture
- Continued on ___ tube feeds
- Clears PO with meds
- Will follow up with Dr. ___ in 2 weeks for repeat dilation
- Home PPI

Transitional Issues:
=========================
[ ] F/U with her gastroenterologist, Dr. ___ nutrition 
management
[ ] F/U with Dr. ___ repeat EGD
[ ] Patient must abstain from ETOH to be considered for liver 
transplant in the future.
[ ] Patient w/ concern for HRS, started on midodrine 15mg TID 
during last hospitalization with normalization of Cr. She should 
follow up with outpatient gastroenterologist for further 
titration/discontinuation. Cr on discharge 0.7.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. DICYCLOMine ___ mg PO TID W/MEALS 
2. Escitalopram Oxalate 20 mg PO DAILY 
3. Lactulose 30 mL PO TID 
4. Omeprazole 40 mg PO DAILY 
5. Ondansetron 4 mg PO Q8H:PRN nausea 
6. Thiamine 100 mg PO DAILY 
7. TraZODone 100 mg PO QHS:PRN insomnia 
8. Chloraseptic Throat Spray 1 SPRY PO Q4H:PRN throat pain 
9. Ciprofloxacin HCl 500 mg PO Q24H 
10. FoLIC Acid 1 mg PO DAILY 
11. Midodrine 15 mg PO TID 
12. Benzonatate 100 mg PO TID:PRN cough 
13. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
14. Furosemide 40 mg PO DAILY 
15. Multivitamins 1 TAB PO DAILY 
16. Potassium Chloride 40 mEq PO DAILY 
17. Spironolactone 100 mg PO DAILY 
18. TraMADol 50 mg PO QHS:PRN Pain - Moderate 
 
Discharge Medications:
1.  Benzonatate 100 mg PO TID:PRN cough  
2.  Chloraseptic Throat Spray 1 SPRY PO Q4H:PRN throat pain  
3.  Ciprofloxacin HCl 500 mg PO Q24H  
4.  DICYCLOMine ___ mg PO TID W/MEALS  
5.  Escitalopram Oxalate 20 mg PO DAILY  
6.  FoLIC Acid 1 mg PO DAILY  
7.  Furosemide 40 mg PO DAILY  
8.  Lactulose 30 mL PO TID  
9.  Midodrine 15 mg PO TID  
10.  Multivitamins 1 TAB PO DAILY  
11.  Omeprazole 40 mg PO DAILY  
12.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
13.  Spironolactone 100 mg PO DAILY  
14.  Thiamine 100 mg PO DAILY  
15.  TraMADol 50 mg PO QHS:PRN Pain - Moderate 
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
=======================
-Gastrojejunal stricture
-Urinary tract infection
-Malnutrition

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms ___:

It was a pleasure being involved in your care.

Why you came in:
-you came in because you were having abdominal pain and 
vomiting.

What we did while you were here:
-we did another dilation of the stricture but it is still very 
tight. We also restarted your tube feeds and advanced them 
slowly.
-we did a paracentesis to drain the fluid around your abdomen. 
Based on our lab tests, the fluid was not infected
-we treated you for a UTI with fosfomycin

Your next steps:
-you should follow up with your gastroenterologist and PCP
-___ will continue to receive tube feeds at home
-you will follow up with our EGD team for another procedure and 
possible dilation

We wish you well,
Your ___ Care Team
 
Followup Instructions:
___